US09079866B2
1-{[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]carbonyl}piperidin-4-ol
The title compound was prepared using methods analogous to those described in Step C of Example 504 using 4′-(2-aminopyrazin-5-yl)-3′-fluoro-[1,1′-biphenyl]-2-carboxylic acid and piperidin-4-ol. MS (ESI): mass calcd. for C22H21FN4O2, 392.16; m/z found, 393.1 [M+H]+. 1H NMR (400 MHz, CDCl3) Complex due to the presence of multiple conformations on the NMR time-scale, peaks listed for identification purposes only: δ 8.54 (d, J=13.9), 8.11-8.05 (m), 7.98-7.83 (m), 7.47-7.27 (m), 6.72 (s), 4.68 (s), 4.24-4.05 (m), 3.76-3.53 (m), 3.27-3.18 (m), 2.91-2.80 (m), 2.62-2.51 (m), 1.82 (m), 1.69 (m), 1.51-1.45 (m), 1.26-1.18 (m), 0.48-0.41 (m).

reactant | 4′-(2-aminopyrazin-5-yl)-3′-fluoro-[1,1′-biphenyl]-2-carboxylic acid | NC1=NC=C(N=C1)C1=C(C=C(C=C1)C=1C(=CC=CC1)C(=O)O)F | C17H12FN3O2
reactant | piperidin-4-ol | N1CCC(CC1)O | C5H11NO
product | 1-{[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]carbonyl}piperidin-4-ol | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)C(=O)N1CCC(CC1)O)F | C22H21FN4O2
